US08754207B2
Preparation of CCI-779. [I]
(189 mg) of 31-trimethyl silyl-42-ester of rapamycin with 5-methyl-2,2-diphenyl-1,3-dioxane-5-carboxylic acid [IId10] was dissolved in 2.8 ml THF and cooled to 0-5° C. Into the reaction mass 0.52 ml 2N sulphuric acid was added and stirred at 25-30° C. for 24 hrs. Then 2 ml THF and 0.52 ml 2 N sulphuric acid was added and stirred at 25-30° C. for 76 hrs. It was then concentrated on rotavapour, residue was dissolved in 2 ml ethyl acetate, and 2-3 drop perchloric acid (HClO4) diluted with 1 ml water was added. The reaction mixture was stirred at 25-30° C. for 24 hrs and reaction mass was dumped into water, and extracted with ethyl acetate. The layers were separated and washed the organic layer with 10% sodium bicarbonate solution and then water. It was dried over sodium sulfate, concentrated on rotavapor to obtain yellow colored oily compound.

reactant | rapamycin | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | 5-methyl-2,2-diphenyl-1,3-dioxane-5-carboxylic acid | CC1(COC(OC1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C18H18O4
reactant | sulphuric acid | 2N, 0.52 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 2 N, 0.52 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | THF | 2.8 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | CCI-779 | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)OC(=O)C(C)(CO)CO)C)/C)O)OC)C)C)/C)OC | C56H87NO16
